US08383650B2
E: 2,4-Dioxo-3-oxa-7-aza-bicyclo[3.3.1]nonane-7-carboxylic acid tert-butyl ester
A suspension of piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester (1 g, 3.6 mmol) in acetic anhydride (20 mL) is heated at reflux for 2 h. The reaction mixture is evaporated three times with toluene before it is dried under high vacuum at rt overnight to give a yellow solid. MS (LC-MS): 278 [M+Na]+.

reactant | piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester | 3.6 mmol, 1 g | C(C)(C)(C)OC(=O)N1CC(CC(C1)C(=O)O)C(=O)O | C12H19NO6
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-Dioxo-3-oxa-7-aza-bicyclo[3.3.1]nonane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(OC(C(C1)C2)=O)=O | C12H17NO5
